US08455475B2
4-(2-Chlorobenzamido)-chroman-6-carboxylic acid (E-11)
KOH (1 mol/1 aq) (2 eq.) was added to a suspension of methyl 4-(2-chlorobenzamido)chroman-6-carboxylate (B-11) (2.227 mmol, 1 eq.) in a mixture of ethanol (13 ml) and water (4.5 ml). The reaction mixture was stirred at room temperature for 16 h. Ethanol was removed in vacuo and the aqueous residue was diluted with diethyl ether (20 ml) and water (20 ml). The phases were separated and the aqueous phase was acidified with 1N HCl to pH 3. The white precipitate was filtered out, washed with aqueous HCl solution and diethyl ether and finally dried in vacuo to obtain the desired product (E-11). Yield: 85%

reactant | KOH | 1 mol, 2 eq. | [OH-].[K+]
reactant | methyl 4-(2-chlorobenzamido)chroman-6-carboxylate | 2.227 mmol, 1 eq. | ClC1=C(C(=O)NC2CCOC3=CC=C(C=C23)C(=O)OC)C=CC=C1 | C18H16ClNO4
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | water | 4.5 ml | O | H2O
product | 4-(2-Chlorobenzamido)-chroman-6-carboxylic acid | Yield: 85% | ClC1=C(C(=O)NC2CCOC3=CC=C(C=C23)C(=O)O)C=CC=C1 | C17H14ClNO4
